US06570039B2
(4S)-N-tert-butoxycarbonyl-4-phenylmethyloxazolidin-5-one (0.34 g) and bromochloromethane (0.10 ml) were added to dehydrated tetrahydrofuran (12 ml). After cooling to −78° C., 1.53 M solution (1.03 ml) of n-butyllithium in hexane was added to the obtained mixture, and they were stirred for 1 hour. 10% aqueous potassium hydrogensulfate solution was added to the reaction mixture to terminate the reaction. The temperature of the reaction mixture was elevated to room temperature. After the extraction with ethyl acetate twice, the obtained ethyl acetate layer was dried over anhydrous magnesium sulfate and then magnesium sulfate was removed. The solvent was evaporated under reduced pressure to obtain intended (4S)-N-tert-butoxycarbonyl-5-chloromethyl-5-hydroxy-4-phenylmethyloxazolidine (0.40 g) in a yield of 100%.

reactant | (4S)-N-tert-butoxycarbonyl-4-phenylmethyloxazolidin-5-one | 0.34 g | C(C)(C)(C)OC(=O)N1COC([C@@H]1CC1=CC=CC=C1)=O | C15H19NO4
reactant | bromochloromethane | 0.10 ml | BrCCl | CH2BrCl
reactant | n-butyllithium | C(CCC)[Li]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | (4S)-N-tert-butoxycarbonyl-5-chloromethyl-5-hydroxy-4-phenylmethyloxazolidine | 0.40 g, yield of 100% | C(C)(C)(C)OC(=O)N1COC([C@@H]1CC1=CC=CC=C1)(O)CCl | C16H22ClNO4
